US04873243
(a) 2-[(3-methoxy-5-isothiazolyl) methyl]-3-imino-6-(4-chloro-phenyl)-2,3-dihydro-pyridazine, hydrochloride
The mixture of 0.500 g of 3-amino-6-(4-chlorophenyl)-pyridazine and 0.438 g of 5-chloromethylene-3-methoxy-isothiazole in 10 ml of dimethylformamide is heated under argon at 80° C. for 14 hours.

reactant | 3-amino-6-(4-chlorophenyl)-pyridazine | 0.500 g | NC=1N=NC(=CC1)C1=CC=C(C=C1)Cl | C10H8ClN3
reactant | 5-chloromethylene-3-methoxy-isothiazole | 0.438 g | ClC=C1C=C(NS1)OC | C5H6ClNOS
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-[(3-methoxy-5-isothiazolyl) methyl]-3-imino-6-(4-chloro-phenyl)-2,3-dihydro-pyridazine, hydrochloride | Cl.COC1=NSC(=C1)CN1N=C(C=CC1=N)C1=CC=C(C=C1)Cl | InChI=1S/C15H13ClN4OS.ClH/c1-21-15-8-12(22-19-15)9-20-14(17)7-6-13(18-20)10-2-4-11(16)5-3-10;/h2-8,17H,9H2,1H3;1H
